US07485283B2
6g. 2-(4-tert-butylbenzyl)thio-3-fluoromethyl chromen-4-one
2-(4-Tert-butylbenzyl)thio-3-tosyloxymethyl chromen-4-one (3 g, 5.9 mmol) is introduced into a 15 mL round bottom flask and tetrabutylammonium fluoride solution (5.9 mmol; 1M in THF) is added to it. The solution is heated to reflux for 3 hours after which all volatiles are removed and the residue obtained is purified by silica gel flash chromatography (ethyl acetate:hexanes).

reactant | 2-(4-Tert-butylbenzyl)thio-3-tosyloxymethyl chromen-4-one | 5.9 mmol, 3 g | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2COS(=O)(=O)C2=CC=C(C)C=C2)=O)C=C1 | C28H28O5S2
reactant | tetrabutylammonium fluoride | 5.9 mmol, 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-tert-butylbenzyl)thio-3-fluoromethyl chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2CF)=O)C=C1 | C21H21FO2S
